US09278944B2
4-Chloro-N-methoxy-1-(3-methoxypropyl)-N,3-dimethyl-1H-pyrrolo[3,2-c]pyridine-6-carboxamide and methylmagnesium bromide were treated in the similar manner to Reference Example 6(5) to give 1-[4-chloro-1-(3-methoxypropyl)-3-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl]ethanone [REx(105-8)] as a colorless powder.

reactant | 4-Chloro-N-methoxy-1-(3-methoxypropyl)-N,3-dimethyl-1H-pyrrolo[3,2-c]pyridine-6-carboxamide | ClC1=NC(=CC2=C1C(=CN2CCCOC)C)C(=O)N(C)OC | C15H20ClN3O3
reactant | methylmagnesium bromide | C[Mg]Br
product | 1-[4-chloro-1-(3-methoxypropyl)-3-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl]ethanone | ClC1=NC(=CC2=C1C(=CN2CCCOC)C)C(C)=O | C14H17ClN2O2
